US08865712B2
a) 2-Bromo-5-fluoro-4-triethylsilanylpyridine
To a solution of diisopropylamine (25.3 g, 250 mmol) in THF (400 ml) was added n-BuLi (100 ml, 2.5 mol/L in hexanes) below −50° C. A solution of 2-bromo-5-fluoropyridine (41.9 g, 238 mmol) in THF (60 ml) was added to the LDA-solution at −78° C. in a dropwise manner below −63° C. After 60 minutes at −78° C. triethylchlorosilane (44 ml, 262 mmol) was added in a fast manner keeping the temperature below −50° C. The cooling bath was removed and the reaction mixture was allowed to reach −20° C. The reaction mixture was poured on a mixture of 1M aq. HCl (250 ml) and aq. NH4Cl (10%). Tert.-butyl methyl ether was added and the layers were separated. The organic phase was washed with brine, dried over magnesium sulfate, filtered and evaporated to give a yellow liquid. Distillation (bp. 99-101° C., 0.5 mm Hg). afforded the title compound as a slightly yellow liquid: 66.26 g (96% yield) 15 1H-NMR (400 MHz, CDCl3): 8.17 (s, 1H), 7.42 (d, 1H), 1.01-0.97 (m, 9H), 0.92-0.87 (m, 6H).

reactant | diisopropylamine | 250 mmol, 25.3 g | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 2.5 mol/L, 100 ml | [Li]CCCC
reactant | 2-bromo-5-fluoropyridine | 238 mmol, 41.9 g | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | triethylchlorosilane | 262 mmol, 44 ml | C(C)[Si](Cl)(CC)CC | C6H15ClSi
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 2-Bromo-5-fluoro-4-triethylsilanylpyridine | BrC1=NC=C(C(=C1)[Si](CC)(CC)CC)F | C11H17BrFNSi
